US04282242
Under nitrogen at room temperature, methyl pyrrole-3-carboxylate (2.5 g., 20 mmoles) was combined with 75 ml. of methylene chloride. o-Toluoyl chloride (3.09 g., 20 mmoles) in 25 ml. of methylene chloride was added, followed by stannic chloride (4.6 ml., 40 mmoles) added at a fast dropwise rate via a needle and syringe. Progress of the reaction was followed by thin layer chromatography (silica gel with ethyl acetate-1/hexane-5/5% acetic acid as eluant). After stirring at room temperature for 2.5 hours, the reaction was cooled with an ice-water bath while 75 ml. of water was added dropwise. After addition was complete, the mixture was stirred for 15 minutes at room temperature, approximately an equal volume of ether was added, the organic layer separated, washed in sequence with water, 1 N sodium hydroxide, water and saturated brine, dried over anhydrous sodium sulfate, filtered and evaporated to yield methyl 5-(2-methylbenzoyl)pyrrole-3-carboxylate.

reactant | methyl pyrrole-3-carboxylate | 20 mmoles, 2.5 g | N1C=C(C=C1)C(=O)OC | C6H7NO2
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
reactant | o-Toluoyl chloride | 20 mmoles, 3.09 g | C=1(C(=CC=CC1)C(=O)Cl)C | C8H7ClO
reactant | water | O | H2O
solvent | ether | CCOCC | C4H10O
product | methyl 5-(2-methylbenzoyl)pyrrole-3-carboxylate | CC1=C(C(=O)C2=CC(=CN2)C(=O)OC)C=CC=C1 | C14H13NO3
